US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-furfurylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate
To a solution of 60 mg (0.17 mmol) of mitomycin A in 8 ml of anhydrous methanol, 0.5 ml of furfurylamine was added with stirring. The progress of the reaction was periodically checked by TLC and the reaction appeared to be complete in 3 hours. The solvent was removed by evaporation under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with ethyl acetate was evaporated. Recrystallization from a mixture of chloroform and hexane gave 30 mg (42.7% yield) of the desired product as purple-colored crystals having a melting point of 62°-63° (decomposing) and providing the following analysis:

reactant | mitomycin A | 0.17 mmol, 60 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | methanol | 8 ml | CO | CH4O
solvent | furfurylamine | 0.5 ml | C(C1=CC=CO1)N | C5H7NO
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-furfurylamino-azirino[2',3':3,4]pyrrolo-[1,2-a]indole-4,7-dione carbamate | 30 mg, 42.7% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NCC1=CC=CO1)C)=O)CC1C2N1)OC | InChI=1S/C19H21N3O5.CH3NO2/c1-9-14(20-6-10-4-3-5-27-10)17(25)13-11(8-23)19(26-2)18-12(21-18)7-22(19)15(13)16(9)24;2-1(3)4/h3-5,11-12,18,20-21,23H,6-8H2,1-2H3;2H2,(H,3,4)
